2168-10-27 07:26:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -Renal U/S was performed and preliminary read indicates no
   hydronephrosis. Doppler evaluation extremely limited given patient
   inability to breath hold. Resistive indices around 0.8 in both kidneys,
   which is slightly elevated, but given limited exam, may be unreliable.
   -The patient was not able to receive Zaroxylin as as she was noted to
   be coughing on a swab, very high risk of aspiration.  She continued on
   Lasix infusion at the rate of 20, but became hypotensive and rate had
   to be lowered to 10.
   This AM, the patient is unable to state whether her breathing has
   improved.  She reports pain in her back and R side [**7-11**] in intensity.
   Allergies:
   Iodine; Iodine Containing
   Anaphylaxis;
   Erythromycin Base
   Unknown;
   Codeine
   Unknown; Nausea
   Nsaids
   Unknown; Nausea
   Aspirin
   Unknown;
   Fosamax (Oral) (Alendronate Sodium)
   Unknown; Diarrh
   Zinc
   itchy;
   Ultram (Oral) (Tramadol Hcl)
   itching;
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 10 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2168-10-26**] 07:30 PM
   Heparin Sodium (Prophylaxis) - [**2168-10-26**] 07:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-10-27**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.6
   Tcurrent: 35.9
C (96.6
   HR: 101 (90 - 113) bpm
   BP: 100/44(57) {89/40(53) - 113/76(86)} mmHg
   RR: 18 (12 - 23) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
             Total In:
                                                                    173 mL
                                                                    134 mL
   PO:
             TF:
   IVF:
                                                                    173 mL
                                                                    134 mL
   Blood products:
   Total out:
                                                                    440 mL
                                                                    500 mL
   Urine:
                                                                    320 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -267 mL
                                                                   -366 mL
   Respiratory support
   O2 Delivery Device: Medium conc mask
   SpO2: 100%
   ABG: ///23/
   Physical Examination
   GENERAL: Pleasant, F in NAD, speaking in full sentences. A/Ox3.
   HEENT: Normocephalic, atraumatic. No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI. MMM. OP clear.
   NECK: Supple, No LAD, No thyromegaly.
   CARDIAC: Irregular rhythm, regular rate, No MRG
   LUNGS: Crackles to apices bilaterally
   ABDOMEN: NABS. Obese, Soft, NT, ND. No HSM. Large midline surgical
   scar. Erythema under breasts.
   EXTREMITIES: Diffuse 4+ pitting edema L>R. Peripheral pulses
   palpable.
   SKIN: No rashes/lesions, ecchymoses.
   Labs / Radiology
   97 K/uL
   9.0 g/dL
   143 mg/dL
   1.7 mg/dL
   23 mEq/L
   4.1 mEq/L
   32 mg/dL
   112 mEq/L
   147 mEq/L
   28.4 %
   11.8 K/uL
        [image002.jpg]
                            [**2168-10-27**]  04:05 AM
   WBC
   11.8
   Hct
   28.4
   Plt
   97
   Cr
   1.7
   Glucose
   143
   Other labs: Ca++:8.0 mg/dL, Mg++:1.9 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   82 yo F w/ severe malnutrition, renal insufficiency, and pulmonary
   edema.
   #.  Hypoxia:
   The patient is currently 100% on medium concentration mask, but not
   tachypnic, speaking in full sentences. Differential is broad and
   includes pulmonary edema secondary to diastolic dysfunction and low
   oncoltic pressures secondary to malnutrition.  Alternatively,
   infectious causes such as influenza or PNA could be considered.
   Finally, pulmonary embolism could present with hypoxia, although
   radiographic presence of bilateral infiltrates on CXR, with chest pain,
   hypotension or tachycardia make it less likely.   CXR/lung exam is
   consistent with pulmonary edema, however IJ is not distended.   Cr has
   been rising with mild diuresis c/w diastolic dysfunction seen on recent
   ECHO. Pt. has been very fluid positive for length of stay. Given a
   combination of nausea in a patient with known distolic dysfunction,
   will rule out for MI.
   - Continue aggressive duresis with Lasix and monitor response
   -Will start empiric coverage for HCAP, PCP if no improvement in
   oxygenation following aggressive duresis over the next several hours
   -Influenza swab, Tamiflu, Droplet precautions
   -F/u urine Legionella Ag
   -Obtain induced sputum Cx if possible
   - f/u repeat TTE
   -EKG, cycle CEs
   - strict I/O
   - daily weights
   #. [**Last Name (un) **]:
   Baseline Cr 1-1.3, Most likely [**1-4**] diuresis in the setting of diastolic
   dysfunction. Urine sediment bland, no muddy brown casts.   Urine lytes
   c/w prerenal cause, poor forward flow vs. hypovolemia.  Renal U/S shows
   no e/o obstruction.
   - Will continue to diurese at this point and monitor for response.  If
   no clinical improvement, may need to re-address.
   -Trend Cr, UOP
   - renally dose all meds
   - avoid nephrotoxins
   #.  Malnutrition:
   Has been unable to swallow [**1-4**] dysmotility, possibly secondary to
   previous radiation. Contributing to her hypoxia.
   - NPO for now in the setting of respiratory distress.
   - [**Month (only) 8**] need PICC and initiation of TPN if patient not going to be a
   candidate for dobhoff due to her poor respiratory status
   #. Anemia:
   Appears to be anemia of chronic disease from iron studies on [**2168-10-19**]
   with increased ferritin, essentially preserved iron to TIBC ratio.
   Given macrocytic, may be a contribution from hypothyrodism.   HCT
   stable since [**2168-10-16**].
   - Trend HCT
   #. Thrombocytopenia:
   HIT antibody negative, possibly related to poor nutritional status.
   - Trend thromboyctopenia
   #. BCL:
   Has been in remission but LDH rising.
   - f/u onc recs
   #.  Hypothyroid:
   - Continue levothyroxine IV
   #Cutaneous cadidiasis:
   Intertriginal erythema
   - Continue miconazole powder
   #  Hypertension:
   - Hold diltiazem while actively diuresing
   #.  Atrial fibrillation
   -Hold all rate control meds for now while diuresing
   ICU Care
   Nutrition: NPO for now
   Lines: PICC Line - [**2168-10-26**] 05:52 PM
   Prophylaxis:
   DVT: Heparin subcutaneous
   Constipation: Bowel regimen in place
   Communication:  Comments: With patient.
   EMERGENCY CONTACT:  [**First Name8 (NamePattern2) 7216**] [**Last Name (NamePattern1) 10153**] [**Telephone/Fax (1) 10154**]; [**Telephone/Fax (1) 10155**] (cell).
   [**First Name4 (NamePattern1) 792**] [**Last Name (NamePattern1) **] [**Telephone/Fax (1) 10156**]
   Code status: Full code (was reverted from DNR/DNI to FULL in last week)
   Disposition: ICU pending decrease in O2 requirement

2168-10-27 09:31:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   admitted to MICU
   renal ultrasound prelim without hydronephrosis
   rx with Lasix gtt
   Allergies:
   Iodine; Iodine Containing
   Anaphylaxis;
   Erythromycin Base
   Unknown;
   Codeine
   Unknown; Nausea
   Nsaids
   Unknown; Nausea
   Aspirin
   Unknown;
   Fosamax (Oral) (Alendronate Sodium)
   Unknown; Diarrh
   Zinc
   itchy;
   Ultram (Oral) (Tramadol Hcl)
   itching;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2168-10-26**] 07:30 PM
   Heparin Sodium (Prophylaxis) - [**2168-10-26**] 07:30 PM
   Other medications:
   SQI, H2B, SQH, levothyroxine, bowel reg, hydrocort cream, Lasix gtt @
   10, zofran prn
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-10-27**] 09:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.6
   Tcurrent: 35.9
C (96.6
   HR: 101 (90 - 113) bpm
   BP: 100/44(57) {89/40(53) - 113/76(86)} mmHg
   RR: 18 (12 - 23) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
             Total In:
                                                                    173 mL
                                                                    151 mL
   PO:
             TF:
   IVF:
                                                                    173 mL
                                                                    151 mL
   Blood products:
   Total out:
                                                                    440 mL
                                                                    500 mL
   Urine:
                                                                    320 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -267 mL
                                                                   -349 mL
   Respiratory support
   O2 Delivery Device: Medium conc mask
   SpO2: 100%
   ABG: ///23/
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : about half up)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Normal
   Labs / Radiology
   9.0 g/dL
   97 K/uL
   143 mg/dL
   1.7 mg/dL
   23 mEq/L
   4.1 mEq/L
   32 mg/dL
   112 mEq/L
   147 mEq/L
   28.4 %
   11.8 K/uL
        [image002.jpg]
                            [**2168-10-27**]  04:05 AM
   WBC
   11.8
   Hct
   28.4
   Plt
   97
   Cr
   1.7
   Glucose
   143
   Other labs: Ca++:8.0 mg/dL, Mg++:1.9 mg/dL, PO4:3.8 mg/dL
   Imaging: CXR with bilateral symmetric infiltrates worse than prior
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   82 year-old woman with incipient respiratory failure.  Differential is
   broad, and includes
   CHF
          Perhaps most likely, though neck vein and ultrasound exam
   argue somewhat against this as does lack of response to Lasix so far.
          EKG, enzymes.
          Lasix gtt
          Echo today
          D/C nitropaste
   Infection
          Influenza, bacterial pneumonia, and PCP all need to be
   considered.
          Will test for influenza, and maintain droplet precautions.
          Will attempt to get sputum, but may be unable to tolerate
   induction.
          Will trial very aggressive CHF therapy for next 4 hours.  If
   not markedly better, will empirically treat for influenza, HCAP, and
   PCP
          If intubated
 bronch.
   No evidence for PE; radiographic opacities argue against as does
   overall picture.
   Acute renal failure
          Appreciate renal
s help.
          Likely low forward-flow state
          Follow for now
   Malnutrition
          Chronic
          No [**Last Name (un) 1446**]-enteric tube now given respiratory status
          If intubated
 post-pyloric feeding
          If not able to get enteric feeding in next few days, will
   consider TPN.
   Hypernatremia
   Recheck later this afternoon and if not improved, replete free water
   Abnormal LFTs
   Appreciate hepatology
s thoughts; s/p liver bx.  Follow for now.
   Thrombocytopenia
   Appreciate heme/onc
s help.
   Follow for now.
   ICU Care
   Lines:
   PICC Line - [**2168-10-26**] 05:52 PM
   Prophylaxis:
   DVT: Boots(discuss SQH with hematology)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:  45 min
   Patient is critically ill

2168-10-28 07:20:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 4**] Resident Progress Note
   Chief Complaint: Respiratory Distress
   24 Hour Events:
   - Stopped metolazone in the morning as cannot take PO
   - was on lasix gtt @ 20mg/hr and had very low urine output by 2pm,
   ended up completing stopping Lasix gtt
   - started on Vanc/Cefepime/Cipro for HAP and Bactrim IV for PCP tx
   [**Name Initial (PRE) **] RT got swab for viral antigen screen/cultures
   - Gave 1L D5W for hypernatremia
   - Flu swab negative, legionella antigen pending, dc'ed respiratory
   precautions and Tamiflu
   - Renal team saw patient, recommended continued diuresis
   - Didn't get [**Last Name (LF) **], [**First Name3 (LF) 124**] hopefully get tomorrow
   - Had increasing respiratory distress after lasix gtt stopped and
   getting fluids, got ABG (7.33/36/184/20/-6) and CXR looked relatively
   stable with an increase in interstitial.  She clinically improved
   without intervention.
   - Placed on face mask at 15L due to pO2 of 184, tolerated well for a
   few hours, then placed back on NRB.
   - Desatted on NRB with increasing respiratory distress, gas showed
   7.32/39/60/21, tried 80mg IV Lasix, couldn't get O2 sats >88-89%, ended
   up intubating, family contact[**Name (NI) **]
 INVASIVE VENTILATION - START [**2168-10-28**] 03:30 AM
   - Was hypotensive to 70
s/30
s, given 500cc NS and SBP increased to
   90
   Allergies:
   Iodine; Iodine Containing
   Anaphylaxis;
   Erythromycin Base
   Unknown;
   Codeine
   Unknown; Nausea
   Nsaids
   Unknown; Nausea
   Aspirin
   Unknown;
   Fosamax (Oral) (Alendronate Sodium)
   Unknown; Diarrh
   Zinc
   itchy;
   Ultram (Oral) (Tramadol Hcl)
   itching;
   Last dose of Antibiotics:
   Cefipime - [**2168-10-27**] 02:45 PM
   Vancomycin - [**2168-10-27**] 03:15 PM
   Bactrim (SMX/TMP) - [**2168-10-28**] 12:19 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2168-10-27**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2168-10-27**] 07:26 PM
   Morphine Sulfate - [**2168-10-28**] 02:30 AM
   Furosemide (Lasix) - [**2168-10-28**] 02:35 AM
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-10-28**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.6
   Tcurrent: 35.7
C (96.3
   HR: 82 (80 - 116) bpm
   BP: 93/43(56) {70/38(31) - 153/93(86)} mmHg
   RR: 18 (14 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74.5 kg (admission): 82.3 kg
   Height: 62 Inch
             Total In:
                                                                  2,149 mL
                                                                    638 mL
   PO:
                                                                     30 mL
             TF:
   IVF:
                                                                  2,119 mL
                                                                    638 mL
   Blood products:
   Total out:
                                                                    975 mL
                                                                    190 mL
   Urine:
                                                                    945 mL
                                                                    190 mL
   NG:
                                                                     30 mL
   Stool:
   Drains:
   Balance:
                                                                  1,174 mL
                                                                    448 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 470 (470 - 470) mL
   Vt (Spontaneous): 437 (437 - 437) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 40 cmH2O
   Plateau: 35 cmH2O
   SpO2: 100%
   ABG: 7.37/39/233/21/-2
   Ve: 7.8 L/min
   PaO2 / FiO2: 582
   Physical Examination
   GENERAL: Pale with diffuse edema, intubated and sedated.
   HEENT: Normocephalic, atraumatic. No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI.
   NECK: No LAD, No thyromegaly.
   CARDIAC: Irregular rhythm, regular rate, No MRG
   LUNGS: Crackles to bilaterally anteriorly
   ABDOMEN: NABS. Obese, Soft, NT, ND. No HSM. Large midline surgical
   scar. Erythema under breasts.
   EXTREMITIES: Diffuse 4+ pitting edema L>R. Peripheral pulses
   palpable.
   SKIN: No rashes/lesions, ecchymoses.
   Labs / Radiology
   86 K/uL
   8.5 g/dL
   81 mg/dL
   2.1 mg/dL
   21 mEq/L
   3.2 mEq/L
   38 mg/dL
   109 mEq/L
   143 mEq/L
   27.3 %
   11.6 K/uL
        [image002.jpg]
                            [**2168-10-27**]  04:05 AM
                            [**2168-10-27**]  12:45 PM
                            [**2168-10-27**]  08:35 PM
                            [**2168-10-28**]  02:32 AM
                            [**2168-10-28**]  03:43 AM
                            [**2168-10-28**]  06:41 AM
   WBC
   11.8
   11.6
   Hct
   28.4
   27.3
   Plt
   97
   86
   Cr
   1.7
   1.9
   2.1
   TropT
   0.18
   0.19
   TCO2
   20
   21
   23
   Glucose
   143
   192
   81
   Other labs: PT / PTT / INR:16.5/30.6/1.5, CK / CKMB /
   Troponin-T:32/4/0.19, Differential-Neuts:92.2 %, Lymph:3.1 %, Mono:4.5
   %, Eos:0.1 %, Lactic Acid:4.3 mmol/L, Ca++:7.6 mg/dL, Mg++:1.9 mg/dL,
   PO4:3.5 mg/dL
   Respiratory Screen:
Respiratory Viral Culture (Preliminary):
   Respiratory Viral Antigen Screen (Final [**2168-10-27**]):
      Negative for Respiratory Viral Antigen.
      Specimen screened for: Adeno, Parainfluenza 1, 2, 3, Influenza A, B,
      and RSV by immunofluorescence.
      Refer to respiratory viral culture for further information.
Legionella Urinary Antigen  (Final [**2168-10-28**]):
      NEGATIVE FOR LEGIONELLA SEROGROUP 1 ANTIGEN.
Blood cx [**2168-10-27**] NGTD
   Assessment and Plan
   82 yo F w/ severe malnutrition, renal insufficiency, and pulmonary
   edema, now intubated and sedated.
   #.  Respiratory Failure/Hypoxia:
   Had episode of desat on NRB, not responsive to Lasix and was
   intubated.  Continues to have a broad differential diagnosis.  Has
   negative swab for influenza, and chest xray and physical exam most
   consistent with pulmonary edema, possible secondary to diastolic
   dysfunction.  She has low oncotic pressures secondary to malnutrition.
   Also started empiric pneumonia and PCP [**Name9 (PRE) 10187**] yesterday in setting of
   lack of clinical improvement.  Likely has worsening volume overload and
   acute renal failure making diuresis difficult.  Differential diagnosis
   at this point includes infectious pneumonia, bacterial or viral, PCP,
   [**Name10 (NameIs) 10190**] heart failure, third spacing due to malnutrition into lungs,
   diffuse alveolar hemorrhage.  Also consider Wegener
s or Goodpasture
   in setting of concurrent renal failure.
   - Continue current vent settings
   - Continue empiric coverage for HCAP, PCP with [**Name9 (PRE) 2601**]/Cefepime/Cipro and
   IV Bactrim
   - Bronch with BAL today
   - Check BNP
   - Check ANCA, [**Doctor First Name **], anti-GBM
   - Have dc
ed droplet precautions
   - Urine legionella Ag negative
   - FU respiratory culture
   - [**Doctor First Name **] today
   - Cardiac enzymes higher than previous but stable and likely elevated
   troponins due to renal failure
   - strict I/O
   - daily weights
   #. Hypotension/Shock: Likely related to recent intubation and
   initiation of sedation.  Also likely intravascularly depleted as
   responsive to fluid boluses.  Less likely to be cardiogenic but will
   get [**Doctor First Name **] as above.
   - place arterial line today
   - IVF prn to maintain blood pressure
   - Will give 1 unit blood for colloid and hopefully will stay
   intravascular
   - Assess for adrenal insufficiency with random cortisol
   #. [**Last Name (un) **]:
   Baseline Cr 1-1.3, Most likely [**1-4**] diuresis in the setting of diastolic
   dysfunction.  Urine lytes c/w prerenal cause, poor forward flow vs.
   hypovolemia but may also have ATN given non-response to diuresis  Renal
   U/S shows no e/o obstruction.
   - Renal following, will verify urine sediment findings
   - Check urine lytes
   -Trend Cr, UOP
   - renally dose all meds
   - avoid nephrotoxins
   #.  Malnutrition:
   Has been unable to swallow [**1-4**] dysmotility, possibly secondary to
   previous radiation. Contributing to her hypoxia.
   - NPO for now in the setting of respiratory distress.
   - Place OG tube today, may need endoscopic assistance
   #. Anemia:
   Appears to be anemia of chronic disease from iron studies on [**2168-10-19**]
   with increased ferritin, essentially preserved iron to TIBC ratio.
   Given macrocytic, may be a contribution from hypothyrodism.   HCT
   stable since [**2168-10-16**].
   - Trend HCT
   #. Thrombocytopenia:
   HIT antibody negative, possibly related to poor nutritional status.
   - Trend thromboyctopenia
   #. BCL:
   Has been in remission but LDH rising.
   - f/u onc recs
   #.  Hypothyroid:
   - Continue levothyroxine IV
   #Cutaneous cadidiasis:
   Intertriginal erythema
   - Continue miconazole powder
   #  Hypertension:
   - Hold diltiazem while actively diuresing
   #.  Atrial fibrillation
   -Hold all rate control meds for now while diuresing
   ICU Care
   Nutrition: NPO for now, will place OG
   Lines: PICC Line - [**2168-10-26**] 05:52 PM
   Prophylaxis:
   DVT: Heparin subcutaneous
   Constipation: Bowel regimen in place
   Communication:  Comments: With patient.
   EMERGENCY CONTACT:  [**First Name8 (NamePattern2) 7216**] [**Last Name (NamePattern1) 10153**] (daughter) [**Telephone/Fax (1) 10154**]; [**Telephone/Fax (1) 10155**]
   (cell). [**First Name4 (NamePattern1) 792**] [**Last Name (NamePattern1) **] (daughter) [**Telephone/Fax (1) 10156**]
   Code status: Full code (was reverted from DNR/DNI to FULL in last week)
   Disposition: ICU pending decrease in O2 requirement